US07338960B2
({2-Methyl-4[({6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}methyl)thio]phenyl}oxy)acetic acid
A solution of ethyl ({2-methyl-4-[({6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}methyl)thio]phenyl}oxy)acetate (367 mg, 0.80 mmol) in THF (5 mL) was treated with aqueous NaOH (2M, 5 mL) and the resulting solution stirred at rt for 4 hours. The mixture was poured into a mixture of aqueous HCl (2M) and EtOAc and the layers separated. The organic layer was then washed with water and brine, dried MgSO4, filtered and then reduced under vacuum. Purification by mass-directed auto-prep HPLC afforded the title compound as an oil.

reactant | ethyl ({2-methyl-4-[({6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}methyl)thio]phenyl}oxy)acetate | 0.80 mmol, 367 mg | CC1=C(C=CC(=C1)SCC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C24H22F3NO3S
reactant | NaOH | 2M, 5 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ({2-Methyl-4[({6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}methyl)thio]phenyl}oxy)acetic acid | CC1=C(C=CC(=C1)SCC1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O | C22H18F3NO3S
